US04664694
Ethyl p-aminobenzoate (7.3 g) was reacted with 37% formalin (formaldehyde in water) (3.2 ml), mercaptoacetic acid (3.0 ml) and xylene (300 ml). This reaction mixture was refluxed and the water formed thereby was removed azeotropically. After all the water was removed, xylene was evaporated under reduced pressure and the residual oil taken up in methylene chloride. Removal of the methylene chloride solvent left an orange solid which was recrystallized from ethanol to give ethyl 4-(4-oxo-3-thiazolidinyl)benzoate. This product had a melting point of 68°-69° C.

reactant | Ethyl p-aminobenzoate | 7.3 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | formalin | 3.2 ml | C=O | CH2O
reactant | mercaptoacetic acid | 3.0 ml | SCC(=O)O | C2H4O2S
reactant | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | water | O | H2O
product | ethyl 4-(4-oxo-3-thiazolidinyl)benzoate | O=C1N(CSC1)C1=CC=C(C(=O)OCC)C=C1 | C12H13NO3S
